US03943124
2α,3α-epoxy-5α-androstan-11-one-17β-carboxylic acid.
A solution of 5α-androst-2-en-11one 17β-carboxylic acid (1.397 g.) and m-chloroperbenzoic acid (850 mg.) in chloroform (20 ml.) was stirred at room temperature for 3.25 hr. and then diluted with chloroform (75 ml.) prior to washing with 10% aqueous sodium bicarbonate and water. The chloroform solution was dried, filtered and evaporated to give a foam (1.04g.) which, after preparative t.l.c. afforded the pure title compound as a foam; [α]D + 69°, (c 0.3).

reactant | 5α-androst-2-en-11one 17β-carboxylic acid | 1.397 g | C[C@@]12[C@H](CC[C@H]1[C@@H]1CC[C@H]3CC=CC[C@]3(C)[C@H]1C(C2)=O)C(=O)O | C20H28O3
reactant | m-chloroperbenzoic acid | 850 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 75 ml | C(Cl)(Cl)Cl | CHCl3
product | 2α,3α-epoxy-5α-androstan-11-one-17β-carboxylic acid | O1[C@H]2[C@@H]1C[C@@H]1CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC([C@@H]3[C@]1(C2)C)=O)C(=O)O | C20H28O4
